US04886822
1.11 g of 4-mercaptopyridine was dissolved in 5 ml of ethanol, and 52.8 mg of sodium hydride was added little by little. The mixture was stirred for 5 minutes, and then a solution of 1.87 g of 4-chloro-3-nitroanisole in 5 ml of dioxane was added. The mixture was heated under reflux at 100° C. for 15 hours. The solvent was evaporated, and 2N hydrochloric acid was added to the residue. The residue was washed with ether, made alkaline by adding an aqueous solution of sodium hydroxide, and extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride. The solvent was evaporated. The resulting residue was subjected to silica gel column chromatography. The column was eluted with a 5:3 mixture of hexane and acetone, and the eluate was recrystallized from acetone-hexane to give 562 mg (yield 21.4%) of 4-(4-methoxy-2-nitrophenyl)thiopyridine as orange needles having a melting point of 57° to 59° C.

reactant | 4-mercaptopyridine | 1.11 g | SC1=CC=NC=C1 | C5H5NS
reactant | sodium hydride | 52.8 mg | [H-].[Na+]
reactant | 4-chloro-3-nitroanisole | 1.87 g | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-(4-methoxy-2-nitrophenyl)thiopyridine | 562 mg, yield 21.4% | COC1=CC(=C(C=C1)SC1=CC=NC=C1)[N+](=O)[O-] | C12H10N2O3S
